US07709496B2
(b) 8-Bromo-2H-chromen-2-one
To a solution of 3-bromo-2-hydroxybenzaldehyde (402 mg, 2.0 mmol) in NMP (5 mL) was added carbethoxymethylene triphenylphosphorane (765 mg, 2.2 mmol). The reaction was heated at 210° C. for 3 h, then was cooled to RT and partitioned between water and ethyl acetate. The layers were separated and the organic layer was dried over MgSO4. Purification by flash chromatography on silica gel (2:1 hexanes/ethyl acetate) yielded the title compound (116 mg, 26%) as a light beige solid: MS (ES) m/e 227.0 (M+H)+.

reactant | 3-bromo-2-hydroxybenzaldehyde | 2.0 mmol, 402 mg | BrC=1C(=C(C=O)C=CC1)O | C7H5BrO2
reactant | carbethoxymethylene triphenylphosphorane | 2.2 mmol, 765 mg | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 8-Bromo-2H-chromen-2-one | 116 mg, 26% | BrC=1C=CC=C2C=CC(OC12)=O | C9H5BrO2
